US06756378B2
To a stirred solution of ethyl 2,3-difluoro-4-nitrophenylacetate (5.85 g, 23.9 mol) in EtOH (100 mL), was added SnCl2 (16.1 g, 71.6 mmol) at rt. The stirring was continued for 18 hours at reflux. After removal of the solvent, the residue was dissolved in CHCl3 (100 mL) and poured into ice water-4M NaOH (40 mL of 4M NaOH in 300 mL of ice-water), extracted with CHCl3 (100 mL×2), dried over anhydrous MgSO4, and concentrated under a reduced pressure. The residue was chromatographed on silica gel (middle pressure chromatography system YAMAZEN YFLC-5404, linear gradient of hexane-EtOAc from 9:1 to 7:3, φ50 mm×500 mm, 15 ml/min) to give ethyl 4-amino-2,3-difluorophenylacetic acid (1.94 g, 38%) as a colorless oil. 1H-NMR (CDCl3) δ1.25 (t, J=7.3 Hz, 3H), 3.55 (d, J=1.0H, 2H), 3.78 (brs, 2H), 4.15 (dd, J=7.2 Hz, 14.2 Hz, 2H), 6.49 (dt, J=1.8, 8.2 Hz, 1H), 6.78 (m, 1H); MS (FAB) m/z 216 (M++1).

reactant | ethyl 2,3-difluoro-4-nitrophenylacetate | 23.9 mol, 5.85 g | FC1=C(C=CC(=C1F)[N+](=O)[O-])CC(=O)OCC | C10H9F2NO4
reactant | SnCl2 | 71.6 mmol, 16.1 g | Cl[Sn]Cl
reactant | EtOH | 100 mL | CCO | C2H6O
product | ethyl 4-amino-2,3-difluorophenylacetic acid | 1.94 g, 38% | C(C)C(C(=O)O)C1=C(C(=C(C=C1)N)F)F | C10H11F2NO2
